US04630896
A mixture of 3.1 g of crude p-[trans-4-[2-(trans-4-pentylcyclohexyl)ethyl]cyclohexyl]benzoic acid, 50 ml of benzene and 0.9 ml of thionyl chloride was heated to boiling for 2 hours. Benzene and excess thionyl chloride were distilled off in vacuo. The residue was taken up twice in 50 ml of toluene and concentrated each time. The crude acid chloride obtained (3.5 g) was dissolved in 50 ml of dioxan and the solution was allowed to flow into a mixture of 18 ml of concentrated ammonia and 75 ml of dioxan. The resulting suspension was stirred at room temperature for 1 hour, then diluted with water and suction filtered. The material on the suction filter was washed neutral with water and then dried by concentration with toluene. 2.6 g of crude p-[trans-4-[2-(trans-4-pentylcyclohexyl)ethyl]cyclohexyl]benzamide were obtained.

reactant | p-[trans-4-[2-(trans-4-pentylcyclohexyl)ethyl]cyclohexyl]benzoic acid | 3.1 g | C(CCCC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1 | C26H40O2
reactant | benzene | 50 ml | C1=CC=CC=C1 | C6H6
reactant | thionyl chloride | 0.9 ml | S(=O)(Cl)Cl | Cl2OS
reactant | ammonia | 18 ml | N | H3N
solvent | dioxan | 50 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | dioxan | 75 ml | O1CCOCC1 | C4H8O2
product | p-[trans-4-[2-(trans-4-pentylcyclohexyl)ethyl]cyclohexyl]benzamide | 2.6 g | C(CCCC)[C@@H]1CC[C@H](CC1)CC[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)N)C=C1 | C26H41NO
